US08664401B2
Water (1 mL) was added to a suspension of potassium carbonate (392 mg, 2.84 mg), phenylboronic acid (76.1 mg, 0.624 mmol), and ethyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate (250 mg, 0.567 mmol) in 1,4-dioxane (5 mL) at ambient temperature. To this mixture was added Pd EnCat™ (154 mg, 0.06 mmol) and the mixture was stirred at 80° C. overnight. The mixture was cooled to ambient temperature, filtered, diluted with ethyl acetate and washed with water. To the organic extract was added silica gel and the mixture was concentrated to dryness. The material was purified via silica gel chromatography eluting with ethyl acetate/heptanes to afford ethyl 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoate as an oil. 118.3 mg

reactant | Water | 1 mL | O | H2O
reactant | potassium carbonate | 392 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 0.624 mmol, 76.1 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl 4-(4-iodo-3-methyl-2-oxopyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)butanoate | 0.567 mmol, 250 mg | IC1=C(C(N(C=C1)CCC(C(=O)OCC)(S(=O)(=O)C)C)=O)C | C14H20INO5S
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | [Pd] | Pd
product | ethyl 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoate | CC(C(=O)OCC)(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)S(=O)(=O)C | C20H25NO5S
